US06969725B2
In analogy to the procedure described in example 1 g], (S)-2-ethoxy-3-{4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester was treated with LiOH to obtain (S)-2-ethoxy-3-{4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid as colorless solid.

reactant | (S)-2-ethoxy-3-{4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C)C)OCC)=O | C27H33NO6
reactant | LiOH | [Li+].[OH-]
product | (S)-2-ethoxy-3-{4-[2-(4-isopropoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2-methyl-phenyl}-propionic acid | C(C)O[C@H](C(=O)O)CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC=C(C=C1)OC(C)C)C | C26H31NO6
